US05187156
To a solution of HCl.H-Thr-D-Trp(CHO)-Phe-NMeBzl (0.94 g) and triethylamine (0.153 g) in acetonitrile (12 ml), was added chlorosulfonyl isocyanate (0.214 g) under cooling with Dry ice and carbon tetrachloride bath. The solution was stirred at the same temperature for an hour and then stirred under ice-cooling. Chlorosulfonyl isocyanate (0.214 g) was added at this temperature, after stirring for fifteen minutes, water (3 ml) was added. The pH was adjusted to pH 4 with sodium hydrogencarbonate and the mixture was stirred for an hour. After evaporation of acetonitrile, the product was extracted with ethyl acetate under saturation with sodium chloride. The organic layer was washed with sodium chloride solution and concentrated. The residue was dissolved in CH3CN-H2O (8:2) (20 ml) and applied to a column of ®TOYO PEARL HW-40 (26 mmφ, 400 ml) and eluted with CH3CH-H2O (7:3), and fractionated. The main fraction was collected, and after evaporation of acetonitrile, n-butanol and ethyl acetate was added and the organic layer was separated and concentrated to give H2NCO-Thr-D-Trp(CHO)-Phe-NMeBzl (600 mg).

reactant | HCl | Cl | ClH
reactant | H-Thr-D-Trp(CHO)-Phe-NMeBzl | 0.94 g | N[C@@H]([C@H](O)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1 | C33H37N5O5
reactant | chlorosulfonyl isocyanate | 0.214 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | Dry ice | C(=O)=O | CO2
reactant | Chlorosulfonyl isocyanate | 0.214 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
solvent | water | 3 ml | O | H2O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | triethylamine | 0.153 g | C(C)N(CC)CC | C6H15N
product | H2NCO-Thr-D-Trp(CHO)-Phe-NMeBzl | 600 mg | N[C@@]([C@H](O)C)(C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1)N=C=O | C34H36N6O6
